US04024183
A solution of p-chlorophenyl isothiocyanate (39.6 g.) in chloroform (100 ml.) is added dropwise with stirring to a solution of m-phenylene diamine (25.2 g.) in chloroform (200 ml.) at room temperature. The mixture is stirred for 1 hour after the addition is complete, and the precipitated solid is filtered off, washed with chloroform and dried to give 1-(p-chlorophenyl)-3-(m-aminophenyl)thiourea, m.p. 132°-133.5° C. This product (20 g.) is dissolved in ethanol saturated with ammonia gas (300 ml.), yellow mercuric oxide (17.2 g.) is added and the mixture is stirred for 24 hours at room temperature. The black precipitate is filtered off and washed thoroughly with boiling ethanol, and the filtrate is evaporated to dryness. The residue is dissolved in chloroform, the solution is filtered and an excess of ethereal hydrochloric acid is added to the filtrate, followed by a large volume of ether. The oily precipitate is allowed to solidify, is triturated with fresh dry ether, and is filtered off and dried, to give 1-(p-chlorophenyl)-3-(m-aminophenyl)guanidine dihydrochloride, m.p. 236°-238° C.

reactant | p-chlorophenyl isothiocyanate | 39.6 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | m-phenylene diamine | 25.2 g | C1(=CC(=CC=C1)N)N | C6H8N2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(p-chlorophenyl)-3-(m-aminophenyl)thiourea | ClC1=CC=C(C=C1)NC(=S)NC1=CC(=CC=C1)N | C13H12ClN3S
